US06316466B1
Benzoylacetonitrile (14.5 g, 10 mmol) was added to cold fuming nitric acid (50 ml) portionwise over 10 min. The reaction mixture was stirred for 15 min., and then poured into ice. The solid was filtered off and recrystallised from ethanol to give 2-(3-nitrobenzoyl)acetonitrile (5.4 g) as a brown solid.

reactant | Benzoylacetonitrile | 10 mmol, 14.5 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | nitric acid | 50 ml | [N+](=O)(O)[O-] | HNO3
product | 2-(3-nitrobenzoyl)acetonitrile | 5.4 g | [N+](=O)([O-])C=1C=C(C(=O)CC#N)C=CC1 | C9H6N2O3
